US07807659B2
Method E: [3S/R,4S/R,(2S)]-5-Fluoro-4-hydroxy-3-[1-(2-phenyl-thiazole-4-carbonyl)-2-piperidine-carboxamido]-pentanoic acid tert-butyl ester
A stirred solution of [3S/R,4S/R,(2S)]-5-fluoro-4-hydroxy-3-[2-piperidinecarboxamido]-pentanoic acid tert-butyl ester (520 mg, 1.63 mmol), in DMF (9.7 ml) at room temperature was treated with DIPEA (311 μl, 1.80 mmol). The resulting mixture was allowed to stir for 30 min before being treated with 2-phenyl-thiazole-4-carboxylic acid (335 mg, 1.63 mmol) and TBTU (524 mg, 1.63 mmol). The mixture was stirred at room temperature for 16 hr and then diluted with ethyl acetate. The resulting solution was washed with 2 N HCl, saturated aq. NaHCO3, saturated aq. NaCl, dried (Na2SO4), filtered and concentrated to reveal an oil. The residue was purified by flash chromatography (60% ethyl acetate in hexane) to afford the sub-title compound as a colorless oil (463 mg, 56%): 1H NMR (400 MHz, CDCl3) δ 1.10-1.85 (15H, m), 2.22-2.89 (3H, m), 3.09-4.78 (6H, m), 5.20-5.43 (1H, m), 7.40-7.56 (3H, m), 7.81-8.11 (3H, m).

reactant | 5-fluoro-4-hydroxy-3-[2-piperidinecarboxamido]-pentanoic acid tert-butyl ester | 1.63 mmol, 520 mg | C(C)(C)(C)OC(CC(C(CF)O)NC(=O)C1NCCCC1)=O | C15H27FN2O4
reactant | DIPEA | 1.80 mmol, 311 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-phenyl-thiazole-4-carboxylic acid | 1.63 mmol, 335 mg | C1(=CC=CC=C1)C=1SC=C(N1)C(=O)O | C10H7NO2S
reactant | TBTU | 1.63 mmol, 524 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 9.7 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Fluoro-4-hydroxy-3-[1-(2-phenyl-thiazole-4-carbonyl)-2-piperidine-carboxamido]-pentanoic acid tert-butyl ester | 463 mg, 56% | C(C)(C)(C)OC(CC(C(CF)O)NC(=O)C1N(CCCC1)C(=O)C=1N=C(SC1)C1=CC=CC=C1)=O | C25H32FN3O5S
